US08476281B2
Preparation of 1-ethyl-3-[6-fluoro-5-[2-(1-hydroxy-1-methyl-ethyl)pyrimidin-5-yl]-7-tetrahydrofuran-2-yl-1H-benzimidazol-2-yl]urea
To a solution of 2-[5-(4,5-diamino-2-fluoro-3-tetrahydrofuran-2-yl-phenyl)pyrimidin-2-yl]propan-2-ol (7.220 g, 21.72 mmol) and 1-ethyl-3-(N-(ethylcarbamoyl)-C-methylsulfanyl-carbonimidoyl)urea (6.054 g, 26.06 mmol, CB Research and Development) in 1,4-dioxane (36.1 mL, Sigma-Aldrich 360481) was added a pH 3.5 buffer (72.2 mL), prepared by dissolving NaOAc trihydrate (5.32 g) in 1N aqueous H2SO4 (37 mL). The reaction mixture was stirred at reflux overnight (HPLC showed complete conversion), cooled to room temperature, and poured portion-wise (frothing) into a stirring solution of aqueous saturated NaHCO3 (144 mL) giving pH 8-9. This was stirred for 20 minutes, the solid was collected by filtration, washed copiously with water to neutral pH, and then more sparingly with EtOH. The solid was dried under reduced pressure giving a beige solid (7.90 g, 99% HPLC purity). LCMS (C18 column eluting with 10-90% CH3CN/water gradient over 5 minutes with formic acid modifier) M+1: 429.45 (2.03 min). HPLC retention time was 3.89 min (YMC ODS-AQ 150×3.0 mm column eluting with 10-90% CH3CN/water gradient over 8 minutes with 0.1% TFA modifier and 1 mL/min flow rate).

reactant | 2-[5-(4,5-diamino-2-fluoro-3-tetrahydrofuran-2-yl-phenyl)pyrimidin-2-yl]propan-2-ol | 21.72 mmol, 7.220 g | NC1=C(C(=C(C=C1N)C=1C=NC(=NC1)C(C)(C)O)F)C1OCCC1 | C17H21FN4O2
reactant | 1-ethyl-3-(N-(ethylcarbamoyl)-C-methylsulfanyl-carbonimidoyl)urea | 26.06 mmol, 6.054 g | C(C)NC(=O)NC(=NC(NCC)=O)SC | C8H16N4O2S
reactant | NaHCO3 | 144 mL | C(=O)(O)[O-].[Na+]
solvent | 1,4-dioxane | 36.1 mL | O1CCOCC1 | C4H8O2
solvent | H2SO4 | 1N, 37 mL | OS(=O)(=O)O | H2O4S
product | 1-ethyl-3-[6-fluoro-5-[2-(1-hydroxy-1-methyl-ethyl)pyrimidin-5-yl]-7-tetrahydrofuran-2-yl-1H-benzimidazol-2-yl]urea | C(C)NC(=O)NC1=NC2=C(N1)C(=C(C(=C2)C=2C=NC(=NC2)C(C)(C)O)F)C2OCCC2 | C21H25FN6O3
